US07384969B2
4.1 1-(4-Isopropylphenyl)-1H-indole-2-carboxylic acid
A suspension of 128.8 g (0.8 mol) of 1H-indole-2-carboxylic acid, of 159.2 g (0.8 mol) of 4-bromocumene, of 111.6 g (0.808 mol) of potassium carbonate and of 8 g (0.1 mol) of copper oxide in 200 ml of dimethylformamide is stirred at reflux for 24 hours. After cooling, 6 l of water are added to the beige suspension obtained. The suspension is filtered and then the insoluble material is taken up in 1 l of a 5N hydrochloric acid solution. This mixture is extracted with 500 ml of dichloromethane. The organic phase is washed with water, dried over sodium sulfate and then concentrated under reduced pressure. After drying under reduced pressure, 204.4 g of a white solid are obtained, which solid is used as is in the following stage.

reactant | 1H-indole-2-carboxylic acid | 0.8 mol, 128.8 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 4-bromocumene | 0.8 mol, 159.2 g | BrC1=CC=C(C=C1)C(C)C | C9H11Br
reactant | potassium carbonate | 0.808 mol, 111.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 6 l | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | copper oxide | 0.1 mol, 8 g | [Cu]=O
product | 1-(4-Isopropylphenyl)-1H-indole-2-carboxylic acid | C(C)(C)C1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C18H17NO2
